US08461134B2
To the mixture of 2-(3-(2,2,2-trifluoroacetamido)phenyl)acetic acid (2.96 g, 12 mmol), propargylamine (0.97 ml, 15 mmol), HATU (4.5 g, 12 mmol) in acetonitrile (50 ml), added DIPEA (5.2 ml, 30 mmol) slowly. Stirring was kept 2 hours at room temperature. Removed solvent, extracted with EtOAc, washed with 1N HCl, water and brine, dried over sodium sulfate. Concentrated to get 1.42 g 2,2,2-trifluoro-N-(3-(2-oxo-2-(prop-2-ynylamino)ethyl)phenyl)acetamide as white solid.

reactant | 2-(3-(2,2,2-trifluoroacetamido)phenyl)acetic acid | 12 mmol, 2.96 g | FC(C(=O)NC=1C=C(C=CC1)CC(=O)O)(F)F | C10H8F3NO3
reactant | propargylamine | 15 mmol, 0.97 ml | C(C#C)N | C3H5N
reactant | HATU | 12 mmol, 4.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 30 mmol, 5.2 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2,2,2-trifluoro-N-(3-(2-oxo-2-(prop-2-ynylamino)ethyl)phenyl)acetamide | 1.42 g | FC(C(=O)NC1=CC(=CC=C1)CC(NCC#C)=O)(F)F | C13H11F3N2O2
